US09382234B2
To a mixture of (cis)-4-((tert-butoxycarbonyl)amino)cyclohexyl methanesulfonate (5.36 mL, 22.93 mmol), methyl 5-chloro-3-hydroxy-2-methylbenzoate (4.0 g, 19.94 mmol), and cesium carbonate (9.74 g, 29.9 mmol) was added N,N-dimethylformamide (DMF) (100 mL). The suspension was stirred at RT for 15 min, then heated at 65° C. under nitrogen septum for 3 days. The reaction was allowed to cool to RT and was poured into ice/saturated NH4Cl (500 mL). The mixture was neutralized with 1 M HCl and extracted with 1:1 EtOAc/ether (2×). The combined organics were washed with brine, dried over magnesium sulfate, and concentrated. The resultant liquid was dried under high vacuum for 2 h. Purification of the residue by flash chromatography (200 gram Isco silica column, 4-50% ether/heptane) gave methyl 3-(((trans)-4-((tert -butoxycarbonyl)amino)cyclohexyl)oxy)-5-chloro-2-methylbenzoate (1.87 g, 4.70 mmol, 23.57% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27-1.48 (m, 13 H) 1.80 (d, J=10.61Hz, 2 H) 1.98-2.07 (m, 2 H) 2.25 (s, 3 H) 3.23-3.33 (m, 1 H) 3.82 (s, 3 H) 4.30-4.45 (m, 1 H) 6.86 (d, J=7.58 Hz, 1 H) 7.28 (d, J=2.02 Hz, 1 H) 7.35 (d, J=2.02 Hz, 1 H). MS(ES) [M+H]+ 420.1 (Na adduct).

reactant | (cis)-4-((tert-butoxycarbonyl)amino)cyclohexyl methanesulfonate | 22.93 mmol, 5.36 mL | CS(=O)(=O)O[C@@H]1CC[C@@H](CC1)NC(=O)OC(C)(C)C | C12H23NO5S
reactant | methyl 5-chloro-3-hydroxy-2-methylbenzoate | 19.94 mmol, 4.0 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)O | C9H9ClO3
reactant | cesium carbonate | 29.9 mmol, 9.74 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 3-(((trans)-4-((tert -butoxycarbonyl)amino)cyclohexyl)oxy)-5-chloro-2-methylbenzoate | 4.70 mmol, 1.87 g, 23.57% yield | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C20H28ClNO5
